US07579341B2
(R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[1′-(2-morpholin-4-yl-ethoxycarbonyl-methyl)-4,4′-bipiperidinyl-1-yl]-2-oxo-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
113 mg (0.35 mmol) TBTU, 84 μL (0.60 mmol) triethylamine and 39 mg (0.30 mmol) 2-morpholin-4-yl-ethanol were added to a solution of 230 mg (0.29 mmol) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 5 mL DMF and the reaction mixture was stirred overnight at RT. The reaction solution was poured onto a saturated NaHCO3 solution, the product precipitated was suction filtered and dried at 40° C. The crude product was dissolved in 25 mL dry isopropanol and precipitated with 0.5 M HCl in isopropanol as the salt. The precipitate was filtered off, washed with 5 mL isopropanol and 30 mL DIPE and dried overnight in the vacuum drying cupboard at 30° C.

reactant | TBTU | 0.35 mmol, 113 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.60 mmol, 84 μL | C(C)N(CC)CC | C6H15N
reactant | 2-morpholin-4-yl-ethanol | 0.30 mmol, 39 mg | N1(CCOCC1)CCO | C6H13NO2
reactant | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.29 mmol, 230 mg | COC=1C=CC2=C(CCN(C(N2)=O)C2CCN(CC2)C(=O)O[C@@H](C(=O)N2CCC(CC2)C2CCN(CC2)CC(=O)O)CC2=CC(=C(C(=C2)C(F)(F)F)N)Cl)C1 | C38H48ClF3N6O7
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[1′-(2-morpholin-4-yl-ethoxycarbonyl-methyl)-4,4′-bipiperidinyl-1-yl]-2-oxo-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | COC=1C=CC2=C(CCN(C(N2)=O)C2CCN(CC2)C(=O)O[C@@H](C(=O)N2CCC(CC2)C2CCN(CC2)CC(=O)OCCN2CCOCC2)CC2=CC(=C(C(=C2)C(F)(F)F)N)Cl)C1 | C44H59ClF3N7O8
